US06307047B1
2-(3,4-Difluorophenyl)-4-(2,2-dimethylpropoxy)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 384 substituting 2-(3,4-difluorophenyl)-4-(2,2-dimethylpropoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-benzyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 310 mg, 38%). mp 173-175° C. 1H NMR (300 MHz, DMSO-d6) δ 0.8 (s, 9H), 3.3 (s, 3H), 4.1 (s, 2H), 7.51 (m, 3H), 7.6 (m, 1H), 7.85 (m, 3H), 7.95 (d, J=9 Hz, 2H), 8.21 (s, 1H). MS (DCI/NH3) m/z 450 (M+H)+, 467 (M+NH4)+. Anal. calc. for C21H21F2N3O4S: C, 56.12; H, 4.71; N, 9.35. Found, C, 55.83; H, 4.73; N, 9.08.

reactant | 2-(3,4-difluorophenyl)-4-(2,2-dimethylpropoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCC(C)(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C22H22F2N2O4S
reactant | NH3 | N | H3N
product | 2-(3,4-Difluorophenyl)-4-(2,2-dimethylpropoxy)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCC(C)(C)C)C1=CC=C(C=C1)S(=O)(=O)N | C21H21F2N3O4S
